US07576064B2
Ethyl 3-benzyloxy-5-bromo-1-isopropylpyrazole-4-carboxylate
Ethyl 5-bromo-3-hydroxy-1-isopropylpyrazole-4-carboxylate (5.8 g) and potassium carbonate (3.5 g) were suspended in N,N-dimethylformamide (50 mL) and to the stirred suspension was added benzyl bromide (2.76 mL) under ice cooling. The mixture was stirred at room temperature for 6 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid (100 mL) and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/5) to give 7.7 g of the title compound.

reactant | Ethyl 5-bromo-3-hydroxy-1-isopropylpyrazole-4-carboxylate | 5.8 g | BrC1=C(C(=NN1C(C)C)O)C(=O)OCC | C9H13BrN2O3
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.76 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 1 mol/L, 100 mL | Cl | ClH
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Ethyl 3-benzyloxy-5-bromo-1-isopropylpyrazole-4-carboxylate | 7.7 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C(=O)OCC)Br)C(C)C | C16H19BrN2O3
